*****************************************************************
******STMicroelectronics MOSFET, IGBT and Bipolar Library *******
*****************************************************************
*																*
* Models provided by STMicroelectronics are not guaranteed to   *
* fully represent all the specifications and operating			*
* characteristics of the product behavior that they reproduce.  *
* The model describes the characteristics of a typical device.  *
* In all cases, the current product data sheet contains all     *
* information to be used like final design guidelines and the   *
* only actual performance specification.                        *
* Altough models can be a useful tool in evaluating device      *
* performance, they cannot model exact device performance under *
* all conditions.												*
* STMicroelectronics therefore does not assume any              *
* responsibility arising from their use.                        *
* STMicroelectronics reserves the right to change models        *
* without prior notice.                                         *
*                                                               *
*****************************************************************
 
.SUBCKT BD139 1 2 3

RB 2 5 1E-06
RC 1 4 1E-06
RE 3 6 1E-06

Q1 4 5 6 Q
 
.MODEL Q NPN
+Is    = 0.271E-16
+Bf    = 204.072
+Vaf   = 158.022
+Ikf   = 5.018
+Ise   = 0.137E-17
+Ne    = 1.712
+Br    = 1.127
+Var   = 10.749
+Ikr   = 0.435
+Isc   = 0.128E-17
+Nc    = 1.046
+Nk    = 0.207
+Rb    = 0.571
+Rbm   = 0.101E-02
+Nf    = 0.982
+Re    = 0.259E-01
+Rc    = 0.413E-01
+Qco   = 0.873E-10
+Rco   = 4.999
+Vo    = 6.291
+Gamma = 0.704E-10
+Cjc   = 0.361E-10
+Vjc   = 0.776
+Mjc   = 0.409
+Cje   = 0.102E-10
+Vje   = 0.745
+Mje   = 0.404
+Fc    = 0.503
+Tr    = 0.118E-06
+Tf    = 0.296E-08
+Itf   = 0.229
+Vtf   = 23.728
+Xtf   = 0.569
 
.ENDS BD139
 
* END OF MODELLING

