*****************************************************************
******STMicroelectronics MOSFET, IGBT and Bipolar Library *******
*****************************************************************
*																*
* Models provided by STMicroelectronics are not guaranteed to   *
* fully represent all the specifications and operating			*
* characteristics of the product behavior that they reproduce.  *
* The model describes the characteristics of a typical device.  *
* In all cases, the current product data sheet contains all     *
* information to be used like final design guidelines and the   *
* only actual performance specification.                        *
* Altough models can be a useful tool in evaluating device      *
* performance, they cannot model exact device performance under *
* all conditions.												*
* STMicroelectronics therefore does not assume any              *
* responsibility arising from their use.                        *
* STMicroelectronics reserves the right to change models        *
* without prior notice.                                         *
*                                                               *
*****************************************************************
 
.SUBCKT BD140 1 2 3

RB 2 5 1E-06
RC 1 4 1E-06
RE 3 6 1E-06

Q1 4 5 6 Q
 
.MODEL Q PNP
+Is    = 0.188E-16
+Bf    = 201.325
+Vaf   = 39.764
+Ikf   = 0.521
+Ise   = 0.447E-15
+Ne    = 2.771
+Br    = 0.671E-01
+Var   = 131.148
+Ikr   = 0.494
+Isc   = 0.921E-12
+Nc    = 1.674
+Nk    = 0.515
+Rb    = 0.572E-01
+Rbm   = 0.335E-02
+Nf    = 0.981
+Re    = 0.185E-02
+Rc    = 0.127
+Qco   = 0.214E-09
+Rco   = 1.681
+Vo    = 10.359
+Gamma = 0.579E-10
+Cjc   = 0.469E-12
+Vjc   = 0.715
+Mjc   = 0.313
+Cje   = 0.297E-12
+Vje   = 0.735
+Mje   = 0.384
+Fc    = 0.526
+Tr    = 0.129E-07
+Tf    = 0.849E-10
+Itf   = 0.332
+Vtf   = 6.784
+Xtf   = 0.505
.ENDS BD140
 
* END OF MODELLING
